US04958037
4-(2-Furyl)-4-methoxy-1-butyne
To a stirred solution of propargyl aluminum bromide, prepared from 52.9 g of 80% propargyl bromide in toluene, 6.41 g of aluminum splutters activated with 70 mg of mercuric choride and 80 ml of tetrahydrofuran, was added dropwise a solution of 42.2 g of furfural dimethyl acetal [J. Org. Chem., 40, 1478 (1975)] in 30 ml of tetrahydrofuran during a 15 minute period while maintaining a temperature of. 25° to 30° C. The mixture was stirred for 20 minutes at 25° C., then partitioned with ether and ice-water. The organic layer was separated, washed with water, then aqueous sodium bicarbonate, finally with brine and dried. After evaporation the residue was distilled, giving 39.8 g of the desired compound, bp 68°-69° C. (11 mm).

reactant | propargyl aluminum bromide | [Br-].C(C#C)[Al+2].[Br-]
reactant | propargyl bromide | 52.9 g | C(C#C)Br | C3H3Br
reactant | aluminum | 6.41 g | [Al] | Al
reactant | furfural dimethyl acetal | 42.2 g | COC(C1=CC=CO1)OC | C7H10O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-(2-Furyl)-4-methoxy-1-butyne | 39.8 g | O1C(=CC=C1)C(CC#C)OC | C9H10O2
